US06071903
Methyl 2-[(2-Diacetylaminobenzyl)-(4-methoxybenzenesulfonyl)amino]acrylate
A mixture of 1.0 g (1.97 mmol) of methyl 3-acetoxy-2-[(2-diacetylaminobenzyl)-(4-methoxybenzenesulfonyl)amino]propionate and 0.826 ml (5.92 mmol) of triethylamine in 5 ml of CH2Cl2 was stirred at room temperature overnight. The solution was diluted with 30 ml of CH2Cl2 and washed with 20 ml each of H2O, 2 N citric acid, brine and dried with Na2SO4. The solvent was removed under vacuum to give a brown oil. Anal. for C22H24N2O7S: Calc'd: C,57.4; H,5.3; N,6.1; S,7.0; Found: C,56.2; H,5.5; N,5.6; S,7.2.

reactant | methyl 3-acetoxy-2-[(2-diacetylaminobenzyl)-(4-methoxybenzenesulfonyl)amino]propionate | 1.97 mmol, 1.0 g | C(C)(=O)OCC(C(=O)OC)N(S(=O)(=O)C1=CC=C(C=C1)OC)CC1=C(C=CC=C1)N(C(C)=O)C(C)=O | C24H28N2O9S
reactant | triethylamine | 5.92 mmol, 0.826 ml | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
product | Methyl 2-[(2-Diacetylaminobenzyl)-(4-methoxybenzenesulfonyl)amino]acrylate | C(C)(=O)N(C1=C(CN(C(C(=O)OC)=C)S(=O)(=O)C2=CC=C(C=C2)OC)C=CC=C1)C(C)=O | C22H24N2O7S
